US04689338
To a solution of 4.8 g (0.0311 mole) of phosphorus oxychloride in 20 ml of N,N-dimethylformamide was added in small portions 5.0 g (0.0207 mole) of 1-isobutyl-1H-imidazo[4,5-c]quinolin-5-oxide. The solution was stirred for 15 minutes at 20° C., then heated on a steam bath for 15 minutes. The solution was cooled to 20° C., then poured into stirred ice. The solution was basified to pH 8 with concentrated ammonium hydroxide. The yellow solid precipitate was separated by filtration, washed sequentially with water and diethyl ether, and dried to provide 4-chloro-1-isobutyl-1H-imidazo[4,5-c]quinoline hydrate, m.p. 103°-107° C. Recrystallization twice from ethyl acetate with drying provided 4-chloro-1-isobutyl-1H-imidazo[4,5-c]-quinoline, m.p. 135°-137° C. Analysis: Calculated for C14H14ClN3: % C, 64.7; % H, 5.4; % N, 16.2; Found: % C, 64.6; H, 5.5; % N, 16.1.

reactant | phosphorus oxychloride | 0.0311 mole, 4.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-isobutyl-1H-imidazo[4,5-c]quinolin-5-oxide | 0.0207 mole, 5.0 g | C(C(C)C)N1C=NC=2C=[N+](C=3C=CC=CC3C21)[O-] | C14H15N3O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-chloro-1-isobutyl-1H-imidazo[4,5-c]quinoline hydrate | O.ClC1=NC=2C=CC=CC2C2=C1N=CN2CC(C)C | InChI=1S/C14H14ClN3.H2O/c1-9(2)7-18-8-16-12-13(18)10-5-3-4-6-11(10)17-14(12)15;/h3-6,8-9H,7H2,1-2H3;1H2
